US06908922B2
1-[2-(Benzofuran-3-yl)ethyl]-4-piperidylamine
10 mmol of 2-(benzofuran-3-yl)-1-bromoethane, 9.62 mmol of tert-butyl 4-piperidyl-carbamate, 2.65 g of potassium carbonate and 0.65 g of tetrabutylammonium sulphate are added to 10 ml of toluene. After refluxing for 12 hours, the mixture is taken up in water. The organic phase is then washed with water, dried and then filtered. Evaporation under reduced pressure allows the expected product to be isolated.

reactant | 2-(benzofuran-3-yl)-1-bromoethane | 10 mmol | O1C=C(C2=C1C=CC=C2)CCBr | C10H9BrO
reactant | tert-butyl 4-piperidyl-carbamate | 9.62 mmol | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | potassium carbonate | 2.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrabutylammonium sulphate | 0.65 g | S(=O)(=O)([O-])[O-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(Benzofuran-3-yl)ethyl]-4-piperidylamine | O1C=C(C2=C1C=CC=C2)CCN2CCC(CC2)N | C15H20N2O
